US04353827
9.2 g (0.038 mol) of 6-bromoisatoic acid anhydride and 4.6 g (0.040 mol) of L-proline in 55 ml of dimethyl sulphoxide are heated at 70° for 1 hour, the solvent is removed in a high vacuum and the oil obtained is heated at 170° for 15 minutes. The crude product is purified by chromatography on silica gel using a mixture of chloroform and methanol (20:1) as the elution agent. There is obtained (S)-6-bromo-1,2,3,11a-tetrahydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine-5,11(10H)-dione which melts at 221°-224° after recrystallization from chloroform/hexane.

reactant | 6-bromoisatoic acid anhydride | 0.038 mol, 9.2 g | BrC=1C=CC=C2C1C(=O)OC(N2)=O | C8H4BrNO3
reactant | L-proline | 0.040 mol, 4.6 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | dimethyl sulphoxide | 55 ml | CS(=O)C | C2H6OS
product | (S)-6-bromo-1,2,3,11a-tetrahydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine-5,11(10H)-dione | BrC1=CC=CC2=C1C(N1[C@H](C(N2)=O)CCC1)=O | C12H11BrN2O2
